US04214094
(a) To 50 ml of absolute ethanol is added 0.573 g of sodium, and 5 g of 4-(N-benzylformimidoyl)phenol and then 5.54 g of ethyl 2-bromo-2-methylpropionate are added to the solution under cooling with water. The mixture is refluxed under heating and with stirring for 22 hours. The ethanol is distilled off from the reaction mixture under reduced pressure. After dissolving the residue in 30 ml of benzene, the insolubles are filtered off. The benzene filtrate is washed with water twice, then dried over magnesium sulfate and thereafter the solvent is distilled off. 6.12 g of the resulting oily product is dissolved in ether. After removing the insolubles from the ethereal solution by filtration, the filtrate is concentrated to give 5.06 g of ethyl 2-[4-(N-benzylformimidoyl)phenoxy]-2-methylpropionate in the form of a pale brown oil.

reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium | 0.573 g | [Na] | Na
reactant | 4-(N-benzylformimidoyl)phenol | 5 g | C(C1=CC=CC=C1)N=CC1=CC=C(C=C1)O | C14H13NO
reactant | ethyl 2-bromo-2-methylpropionate | 5.54 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | water | O | H2O
product | ethyl 2-[4-(N-benzylformimidoyl)phenoxy]-2-methylpropionate | 5.06 g | C(C1=CC=CC=C1)N=CC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C20H23NO3
